US07547691B2
(B). Preparation of [5-chloro-4-(7-methoxybenzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methyl-piperazin-1-yl)-propyl]-amine
Using the method of [4-(benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine tri-hydrochloride, the title compound is prepared from 2,5-dichloro-4-(7-methoxybenzo[b]thiophen-2-yl)-pyrimidine and 1-(3-aminopropyl)-4-methylpiperazine and isolated as a yellowish solid. ES+(m/z) 432(35Cl) and 434(37Cl) [M+H].

reactant | [4-(benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine tri-hydrochloride | Cl.Cl.Cl.S1C2=C(C=C1C1=NC(=NC=C1)NCCCN1CCN(CC1)C)C=CC=C2
reactant | 2,5-dichloro-4-(7-methoxybenzo[b]thiophen-2-yl)-pyrimidine | ClC1=NC=C(C(=N1)C1=CC2=C(S1)C(=CC=C2)OC)Cl | C13H8Cl2N2OS
reactant | 1-(3-aminopropyl)-4-methylpiperazine | NCCCN1CCN(CC1)C | C8H19N3
product | [5-chloro-4-(7-methoxybenzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methyl-piperazin-1-yl)-propyl]-amine | ClC=1C(=NC(=NC1)NCCCN1CCN(CC1)C)C1=CC2=C(S1)C(=CC=C2)OC | C21H26ClN5OS
